US08809324B2
N-(2,4-Dimethoxybenzyl)-1-(4-bromophenyl)-2-hydroxy-2-methylpropane-1-sulfonamide
Under inert gas, 28 g of C-(4-bromophenyl)-N-(2,4-dimethoxybenzyl)methanesulfonamide were initially charged in 250 ml of THF, and then, at a temperature of −78° C., 93 ml of a 1.6 N methyllithium solution in hexane were added dropwise and the mixture was left to stir while cooling with ice for 5 minutes. Subsequently, the reaction solution was cooled again to −78° C. and 20 ml of acetone were added. The mixture was allowed to come to room temperature and stirred for 30 minutes. The reaction solution was admixed with 13 ml of trifluoroacetic acid and 500 ml of ethyl acetate, and washed with 300 ml of a saturated aqueous sodium hydrogencarbonate solution and 300 ml of a saturated aqueous sodium chloride solution, and the organic phase was dried over Na2SO4 and concentrated by rotary evaporation. The residue was used in the next reaction without further purification.

reactant | C-(4-bromophenyl)-N-(2,4-dimethoxybenzyl)methanesulfonamide | 28 g | BrC1=CC=C(C=C1)CS(=O)(=O)NCC1=C(C=C(C=C1)OC)OC | C16H18BrNO4S
reactant | methyllithium | 1.6 N | C[Li]
reactant | acetone | 20 ml | CC(=O)C | C3H6O
reactant | trifluoroacetic acid | 13 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | THF | 250 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | N-(2,4-Dimethoxybenzyl)-1-(4-bromophenyl)-2-hydroxy-2-methylpropane-1-sulfonamide | COC1=C(CNS(=O)(=O)C(C(C)(C)O)C2=CC=C(C=C2)Br)C=CC(=C1)OC | C19H24BrNO5S
